US09388176B2
3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-(4-isopropylphenyl)benzamide
A mixture of 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid (41 mg, 0.15 mmol), N,N-diisopropylethylamine (0.105 mL, 0.60 mmol), and HBTU (63 mg, 0.165 mmol) in 1.5 mL DMF was briefly warmed to approx. 50° C. to dissolve solids, then continued stirring at room temperature. After 10 minutes 4-isopropylaniline (0.032 mL, 0.225 mmol) was added and the reaction continued at room temperature for 18 hours. The reaction was added drop wise to a stirring mixture of 35 mL water containing 4 mL brine and 0.3 mL saturated aqueous Na2CO3 solution at room temperature. The resulting precipitate was filtered and rinsed with water. The damp solid was dissolved in 40% MeOH in CHCl3 and evaporated to a dry solid. The solid was triturated with an acetone/hexane mixture to give the title compound as a light beige solid (44 mg, 75%). 1H NMR (DMSO-d6) δ: 10.08 (s, 1H), 8.13 (s, 1H), 7.64-7.70 (m, 2H), 7.49-7.51 (m, 1H), 7.31-7.40 (m, 2H), 7.18-7.25 (m, 3H), 6.40 (s, 2H), 4.29 (s, 2H), 3.65 (t, J=6.0 Hz, 2H), 2.81-2.94 (m, 1H), 2.77 (t, J=5.9 Hz, 2H), 1.20 (d, J=7.0 Hz, 6H).

reactant | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid | 0.15 mmol, 41 mg | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)O)C=CC2 | C14H14N4O2
reactant | N,N-diisopropylethylamine | 0.60 mmol, 0.105 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 0.165 mmol, 63 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-isopropylaniline | 0.225 mmol, 0.032 mL | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | Na2CO3 | 0.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | 35 mL | O | H2O
product | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-(4-isopropylphenyl)benzamide | 44 mg, 75% | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)NC1=CC=C(C=C1)C(C)C)C=CC2 | C23H25N5O
